US07759382B2
A solution of 0.54 g (0.9 mmol) of 4-[5-(2-benzyloxycarbonylamino-propionylamino)-1-tert-butyl-1H-pyrazol-3-yl]-4-phenylpiperidine-1-carboxylic acid tert-butyl ester in 4.0 mL of neat trifluoroacetic acid was stirred at rt for 15 min. The reaction mixture was then poured into sat. aq. NaHCO3 and extracted with EtOAc. The organic layer was dried over MgSO4 and concentrated to afford {1-[2-tert-butyl-5-(4-phenylpiperidin-4-yl)-2H-pyrazol-3-ylcarbamoyl]ethyl}-carbamic acid benzyl ester which was used without further purification.

reactant | 4-[5-(2-benzyloxycarbonylamino-propionylamino)-1-tert-butyl-1H-pyrazol-3-yl]-4-phenylpiperidine-1-carboxylic acid tert-butyl ester | 0.9 mmol, 0.54 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(C1=CC=CC=C1)C1=NN(C(=C1)NC(C(C)NC(=O)OCC1=CC=CC=C1)=O)C(C)(C)C | C34H45N5O5
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | trifluoroacetic acid | 4.0 mL | FC(C(=O)O)(F)F | C2HF3O2
product | {1-[2-tert-butyl-5-(4-phenylpiperidin-4-yl)-2H-pyrazol-3-ylcarbamoyl]ethyl}-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(NC(C)C(NC=1N(N=C(C1)C1(CCNCC1)C1=CC=CC=C1)C(C)(C)C)=O)=O | C29H37N5O3
